US04072696
1 G. of 1-amino-4-carbamoylthio-2-nitrobenzene in 20 ml. acetone is treated with 3.0 g. methoxy carbonyl isothiocyanate at room temperature for several days. The solution is concentrated and the residue triturated with methanol to afford 4-carbamoylthio-1-(3-methoxycarbonyl-2-thioureido)-2-nitrobenzene.

reactant | 1-amino-4-carbamoylthio-2-nitrobenzene | NC1=C(C=C(C=C1)SC(N)=O)[N+](=O)[O-] | C7H7N3O3S
reactant | methoxy carbonyl isothiocyanate | COC(=O)N=C=S | C3H3NO2S
solvent | acetone | CC(=O)C | C3H6O
product | 4-carbamoylthio-1-(3-methoxycarbonyl-2-thioureido)-2-nitrobenzene | C(N)(=O)SC1=CC(=C(C=C1)NC(=S)NC(=O)OC)[N+](=O)[O-] | C10H10N4O5S2
